US09056914B2
To a solution of 1 g of tert-butyl 3-{2-[2-(2-morpholin-4-yl-ethoxy)-ethoxy]-ethoxy}-propanoate in 50 ml of DCM was added 4 ml of TFA. The mixture was stirred for 10 hours at room temperature and then concentrated under reduced pressure and purified on a Mega BE-SCX, 25GM 150ML cartridge (Varian), using washing with MeOH and detachment of the expected product with a 2N solution of ammonia in MeOH. The fractions containing the desired product were combined and concentrated under reduced pressure. 830 mg of 3-{2-[2-(2-morpholin-4-yl-ethoxy)-ethoxy]-ethoxy}-propanoic acid were obtained. LC/MS (E): tr (ELSD)=0.16 min; [M+H]+: m/z 292

reactant | tert-butyl 3-{2-[2-(2-morpholin-4-yl-ethoxy)-ethoxy]-ethoxy}-propanoate | 1 g | N1(CCOCC1)CCOCCOCCOCCC(=O)OC(C)(C)C | C17H33NO6
reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-{2-[2-(2-morpholin-4-yl-ethoxy)-ethoxy]-ethoxy}-propanoic acid | 830 mg | N1(CCOCC1)CCOCCOCCOCCC(=O)O | C13H25NO6
